US09056865B2
Step 1: 3,6-dichloro-2-iodopyridine
To a solution of 2,5-dichloropyridine (95 g, 0.64 mol) in 1 L of dry ether was added dropwise t-BuLi (1.3 M, 500 mL, 0.65 mol) at −65° C. After addition, the mixture was stirred at −65° C. for 2 hrs, then the mixture was poured into a solution of iodine (180 g, 0.71 mol) in dry ether (700 mL) cooled at −60° C. Then the mixture was stirred at −65° C. for 1 hour and warmed to room temperature for another 1 hour. The mixture was quenched with H2O (400 mL), then extracted with EtOAc (200 mL). The organic phase was washed with sat. Na2SO3 (250 mL×3), sat. NaCl and dried over Na2SO4. Concentrated and the residue was purified via silica gel column (petroleum ether) to give title compound (57 g, ˜77% purity, 25% yield) as a light yellow solid, which was used directly in the next step.

reactant | 2,5-dichloropyridine | 0.64 mol, 95 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | t-BuLi | 0.65 mol, 1.3 M, 500 mL | [Li]C(C)(C)C
reactant | iodine | 0.71 mol, 180 g | II | I2
solvent | ether | 1 L | CCOCC | C4H10O
solvent | ether | 700 mL | CCOCC | C4H10O
product | 3,6-dichloro-2-iodopyridine | 57 g, 25% yield | ClC=1C(=NC(=CC1)Cl)I | C5H2Cl2IN
